US07629494B2
A 1 L four-necked round-bottomed flask was equipped with a magnetic stirrer bar, a thermometer and a pressure-equalizing dropping funnel. A 2-hydroxy-3-methylbenzaldehyde (30.0 g, 0.22 mol) and THF (300 ml) were added to it under a nitrogen atmosphere. After the mixture was cooled to 0° C., a solution of vinyl magnesium chloride in THF (1.9 M, 237 ml, 0.45 mol) was added thereto over 45 minutes while maintaining the mixture temperature of 15° C. or less. The mixture was gradually warmed to room temperature and stirred at room temperature for 18 hours. The mixture was cooled to 0° C. and a 20% aqueous ammonium chloride solution (600 ml) was added thereto at 0° C. After the mixture was stirred at room temperature for 30 minutes, the mixture was poured into water (500 ml). The mixture was extracted with ethyl acetate (3×500 ml). The organic layer was combined and successively washed with a 20% aqueous ammonium chloride solution (300 ml), water (2×300 ml) and a saturated aqueous NaCl solution (300 ml), followed by drying with anhydrous sodium sulfate (150 g). The solid was removed by filtration and the filtrate was concentrated to obtain 34.3 g of 2-(1-hydroxy-2-propenyl)-6-methylphenol as a brown gum.

reactant | 2-hydroxy-3-methylbenzaldehyde | 0.22 mol, 30.0 g | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | THF | 300 ml | C1CCOC1 | C4H8O
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | THF | 0.45 mol, 1.9 M, 237 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 600 ml | [Cl-].[NH4+]
solvent | water | 500 ml | O | H2O
product | 2-(1-hydroxy-2-propenyl)-6-methylphenol | 34.3 g | OC(C=C)C1=C(C(=CC=C1)C)O | C10H12O2
